US04117130
Preparation of 6-(α,α,α-trifluoro-p-tolyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 4.50 g. of 3-chloro-6-(α,α,α-trifluoro-p-tolyl)pyridazine, 2.09 g. of formylhydrazine and 100 ml. of n-butanol is stirred and refluxed for 3 days. The solvent is removed and the residue dissolved in methylene chloride, passed through magnesol and the solid from the filtrate recrystallized from methylene chloride/hexane to afford the product as white crystals, m.p. 160°-161° C.

reactant | 3-chloro-6-(α,α,α-trifluoro-p-tolyl)pyridazine | ClC=1N=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | formylhydrazine | C(=O)NN | CH4N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-(α,α,α-trifluoro-p-tolyl)-1,2,4-triazolo[4,3-b]pyridazine | FC(C1=CC=C(C=C1)C=1C=CC=2N(N1)C=NN2)(F)F | C12H7F3N4
